US08304419B2
Step E: [3-fluoro-4-methyl-2-(1-naphthalenyloxy)phenyl]amine
A solution of sodium hydrosulfite (25.8 g, 125 mmol) in water (120 mL) was added dropwise to a solution of 1-[(2-fluoro-3-methyl-6-nitrophenyl)oxy]naphthalene (6.2 g, 20.86 mmol) in THF (60 mL) at room temperature. The mixture was stirred at room temperature for 2 hrs. The reaction mixture was extracted with ethyl acetate (3×50 mL) and the combined organic layers were washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash chromatography (hexane:ethyl acetate) to give the title compound (3.34 g, 60%) as a light tan oil. 1H NMR (400 MHz, chloroform-d) δ ppm 8.44-8.52 (m, 1H), 7.80-7.90 (m, 1H), 7.45-7.61 (m, 3H), 7.19-7.32 (m, 1H), 6.86 (t, 1H), 6.64 (d, 1H), 6.53 (dd, 1H), 3.59 (br. s., 2H), 2.19 (s, 3H). ES MS m/z 268 (M+1).

reactant | sodium hydrosulfite | 125 mmol, 25.8 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-[(2-fluoro-3-methyl-6-nitrophenyl)oxy]naphthalene | 20.86 mmol, 6.2 g | FC1=C(C(=CC=C1C)[N+](=O)[O-])OC1=CC=CC2=CC=CC=C12 | C17H12FNO3
solvent | water | 120 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | [3-fluoro-4-methyl-2-(1-naphthalenyloxy)phenyl]amine | 3.34 g, 60% | FC=1C(=C(C=CC1C)N)OC1=CC=CC2=CC=CC=C12 | C17H14FNO
